US04027027
A solution of 9.0 g of 4-(2-aminoethoxy)-benzamide in 120 ml of isopropanol is heated to the reflux temperature and a solution of 9.3 g of 2-chloro-3-(2,3-epoxy-propoxy)-pyrazine in 120 ml of isopropanol is added dropwise; duration of the addition: 5 hours. Thereafter the reaction mixture is heated to the reflux temperature for a further 7 hours. After completion of the reaction, the mixture is evaporated under a waterpump vacuum. The residue crystallises from ethyl acetate and gives 1-[2-(4-carbamoylphenyloxy)-ethyl-amino]-3-(2-chloro-3-pyrazinyloxy)-2-propanol, melting point 134°-135° C. after recrystallisation from isopropanol. The hydrochloride prepared therefrom using the calculated amount of methanolic hydrochloric acid melts at 223°-225° C. after crystallisation from a mixture of methanol and acetone.

reactant | 4-(2-aminoethoxy)-benzamide | 9.0 g | NCCOC1=CC=C(C(=O)N)C=C1 | C9H12N2O2
reactant | 2-chloro-3-(2,3-epoxy-propoxy)-pyrazine | 9.3 g | ClC1=NC=CN=C1OCC1CO1 | C7H7ClN2O2
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | 1-[2-(4-carbamoylphenyloxy)-ethyl-amino]-3-(2-chloro-3-pyrazinyloxy)-2-propanol | C(N)(=O)C1=CC=C(C=C1)OCCNCC(COC=1C(=NC=CN1)Cl)O | C16H19ClN4O4
